Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ pain 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ hx of COPD (last FEV1/FVC in ___: 53%), HCV, HBV and 
posttraumatic seizure disorder since ___, seizure disorder, who 
presents w/ R leg pain x 3 weeks.  Patient reports pain began 
suddenly when awakening one morning. He stepped out of bed and 
leg gave out.  Pain has continued in the calf and thigh for the 
past 3 weeks.  He has been taking up to 12 aspirin per day 
without relief.  He denies recent history of fever, chills, 
chest pain, nausea, vomiting or diarrhea.  He reports his 
chronic cough and sputum production are at baseline. 

In the ED, initial vs were:  99.9 95 150/101 28 98% ra.  Labs 
were notable for WBC of 14.7, HCT 38, Lactate of 2.2, Ddimer 
598, INR 1.3, acetaminophen level of 4.3, UA was negative. LENIs 
were negative. CTA demonstrated subsegmental PEs in addition to 
a soft tissue mass surrounding the right main PA.  Heparin gtt 
was held given concern for pericardial effusion. The patient was 
noted to develop Afib with rates to the 150. He was given 3L NS 
in addition to 18 mg of dilt. A dilt drip was ordered however he 
converted to sinus prior to starting this medication.     
 
On acceptance patinet appears comfortable and is in no acute 
distress. 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  
 

 
Past Medical History:
HTN
HPL
Seizure disorder: partial motor with secondary generalization, 
s/p MVA in ___, originally diagnosed in ___. No seizures 
since before ___ (patient changes doses of meds based on side 
effect of dizziness)
HCV (last VL: ___ 2.6x10^6)
HBV
h/o IVDU (past heroin use, about ___ years ago)
s/p meningitis in ___ (?strep malei), also found to have demand 

ischemia with troponin leak (started on lopressor)
h/o ataxia, likely secondary to being on AED. MRI in ___ for 
acute pathology
s/p cervical spine surgery in ___ for "bone spurs" that caused 
nerve damage to RUE/RLE

 
Social History:
___
Family History:
Pt adopted
 
Physical Exam:
ON ADMISSION:
===============
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, oropharynx somewhat dry   
Neck: supple, JVP not elevated, no LAD  
Lungs: Wheezes throughout entire lung fields 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, RLE with  TTP of the calf. Strength ___, sensation in 
tact to light touch  
 
Pertinent Results:
ON ADMISSION:
=============
___ 01:00PM BLOOD WBC-14.7*# RBC-4.03* Hgb-12.5* Hct-38.0* 
MCV-94 MCH-31.0 MCHC-32.9 RDW-12.9 Plt ___
___ 01:00PM BLOOD Neuts-88.5* Lymphs-7.1* Monos-3.8 Eos-0.3 
Baso-0.3
___ 01:00PM BLOOD ___ PTT-32.9 ___
___ 01:00PM BLOOD Glucose-117* UreaN-16 Creat-0.6 Na-137 
K-4.6 Cl-98 HCO3-27 AnGap-17
___ 01:00PM BLOOD ALT-17 AST-22 LD(LDH)-312* AlkPhos-107 
TotBili-0.5
___ 01:00PM BLOOD cTropnT-<0.01 proBNP-383*
___ 01:00PM BLOOD Calcium-10.5* Phos-2.5* Mg-1.8
___ 02:10PM BLOOD D-Dimer-598*
___ 10:30PM BLOOD TSH-1.6
___ 01:00PM BLOOD ASA-4.3
___ 02:09PM BLOOD Lactate-2.2*
___ 02:20PM URINE Color-DkAmb Appear-Clear Sp ___
___ 02:20PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-SM  Urobiln-4* pH-6.0 Leuks-NEG
___ 02:20PM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE Epi-0
___ 02:20PM URINE CastHy-4*

MICRO:
=========

BCX ___: negative
BCX ___: pending

RADIOLOGY:
============
CXR ___:
FINDINGS:  Linear opacity projecting over the anterior right 
seventh rib may relate to the edge of the rib.  No definite 
focal consolidation is seen.  There is no pleural effusion or 
pneumothorax.  The aorta is slightly tortuous and is calcified.  
The cardiac silhouette is not enlarged.  Metallic surgical 
hardware is partially imaged in the cervical spine.  Evidence of 
underlying pulmonary emphysema is seen. 
  
IMPRESSION:  No acute cardiopulmonary process. 

LENIS ___:
FINDINGS:  There is normal compressibility, flow and 
augmentation of the right common femoral, proximal femoral, mid 
femoral, distal femoral and popliteal veins.  Normal color-flow 
and compressibility is seen in the right posterior tibial and 
peroneal veins.  There is normal respiratory variation in the 
common femoral veins bilaterally. 
  
IMPRESSION:  No evidence of deep vein thrombosis in the right 
lower extremity. 

CTA ___:
IMPRESSION: 
1.  6.9 cm soft tissue mass with central hypodensity in the 
middle mediastinum surrounding the right main pulmonary artery, 
concerning for malignancy with central necrosis.  The mass also 
compresses the distal trachea.  Tissue sampling with 
bronchoscopy is recommended. 
2.  Right apical pleural-based soft tissue mass may represent 
metastatic 
disease. 
3.  Focal non-occlusive subsegmental pulmonary embolus in the 
right lower 
lobe. 
4.  Mild dilation of the pulmonary arterial trunk may be related 
in part to mass effect on the pulmonary arteries by the 
mediastinal mass. 
5.  Small pericardial effusion. 

CTH ___:
IMPRESSION:  No change in the faint hyperdensity in the region 
of the left 
basal ganglia, suggesting it is likely mineralization in the 
globus pallidus related to age. No acute hemorrhage is 
identified. 

CXR ___:
FINDINGS:  As compared to the previous radiograph, the patient 
is less 
rotated.  There is no evidence for the presence of a right 
pneumothorax.  Mild atelectasis in the retrocardiac lung areas.  
Known mediastinal masses. 

CTH ___:
IMPRESSION: 
Subtle 7 mm hyperdensity near the anterior limb of the left 
internal capsule. This is concerning for a small 
intraparenchymal hemorrhage.  Alternatively, this could 
represent focal mineralization of the basal ganglia.  In the 
absence of prior imaging for comparison, close follow-up is 
advised. 
   
COMMENT ON ATTENDING REVIEW: 
  
The faint hyperdensity in the region of the left basal ganglia, 
without 
surrounding edema, is not consistent with hemorrhage. It likely 
represents 
either age-related mineralization of the globus pallidus or 
mineralization 
with a cavernous malformation. 

TTE ___:
The left atrial volume is mildly increased. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>65%). The estimated 
cardiac index is high (>4.0L/min/m2). Doppler parameters are 
indeterminate for left ventricular diastolic function. The right 
ventricular size is normal with normal free wall contractility. 
The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild mitral and tricuspid regurgitation. Mild pulmonary 
hypertension.  

Other relevant labs:

___ 02:09AM BLOOD Glucose-95 UreaN-12 Creat-0.4* Na-135 
K-3.5 Cl-102 HCO3-24 AnGap-13
___ 02:09AM BLOOD WBC-11.7* RBC-3.06* Hgb-9.3* Hct-28.8* 
MCV-94 MCH-30.3 MCHC-32.1 RDW-12.7 Plt ___
___ 11:19PM BLOOD ALT-17 AST-29 LD(LDH)-297* AlkPhos-84 
TotBili-0.6
___ 01:00PM BLOOD cTropnT-<0.01 proBNP-383*
___ 10:30PM BLOOD cTropnT-<0.01
___ 08:30AM BLOOD CK-MB-4 cTropnT-0.01
___ 02:09AM BLOOD Calcium-8.8 Phos-2.2* Mg-1.7
___ 02:10PM BLOOD D-Dimer-598*
___ 10:30PM BLOOD TSH-1.6
___ 11:19PM BLOOD Prolact-7.8
___ 01:00PM BLOOD ASA-4.3
___ 11:32PM BLOOD pO2-57* pCO2-36 pH-7.46* calTCO2-26 Base 
XS-1
___ 09:04AM BLOOD Type-ART pO2-29* pCO2-42 pH-7.40 
___ 01:06PM BLOOD ___ Temp-36.4 O2 Flow-60 
pO2-31* pCO2-43 pH-7.41 calTCO2-28 Base XS-1 Intubat-NOT INTUBA
___ 07:51PM BLOOD Type-ART pO2-78* pCO2-42 pH-7.42 
calTCO2-28 Base XS-2 Intubat-NOT INTUBA

___ 02:09PM BLOOD Lactate-2.2*
___ 10:41PM BLOOD Lactate-1.3
___ 11:32PM BLOOD Lactate-1.1
___ 09:04AM BLOOD Lactate-1.5
___ 07:51PM BLOOD Lactate-1.2

UA:

___ 11:55AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:55AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-2* pH-5.5 Leuks-NEG
___ 11:55AM URINE RBC-13* WBC-6* Bacteri-FEW Yeast-NONE 
Epi-1 TransE-<1
___ 02:20PM URINE Color-DkAmb Appear-Clear Sp ___
___ 02:20PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-SM  Urobiln-4* pH-6.0 Leuks-NEG
___ 02:20PM URINE RBC-0 WBC-3 Bacteri-NONE Yeast-NONE Epi-___ yo male with extensive history of tobacco abuse, COPD, 
hepatitis B and C who presents with a 3 week history of leg pain 
found to have a new mediastinal mass in addition to subsegmental 
PEs. He was transitioned to comfort-focused care in the ICU and 
expired on the general medicine floor.  

ACTIVE MEDICAL ISSUES:
==========================
# Mediastinal Mass: 
Unclear etiology however rapid progression concerning for 
lymphoma vs. SCLC. Pt stated he was not interested in undergoing 
a biopsy at this time but upon further discussion with his wife 
and pt, had discussion with IP about possibly getting biopsy. 
This was deferred based on goals of care.

#Respiratory failure and Comfort Focused Care: Pt presented with 
worsening respiratory status likely due to compressive effects 
of mass, PEs. He was initially stabilized in the MICU, called 
out to the floor, then re-transferred to MICU for respiratory 
distress. He was altered/delirious by then. At that time goals 
of care discussion was held with his wife, and in line with his 
wishes when patient was still mentating well, it was decided not 
to pursue further workup, not to intubate, and to focus 
primarily on patinet's comfort.

# Subsegmental PEs:
Noted on CTA. Unclear if patient was symptomatic from clots as 
burden was low.  No evidence of hemodynamic compromise. Pt 
started on heparin gtt while in MICU with goal PTT of 60-80. 
This was later stopped based on goals of care as above.

# Afib with RVR- Patient with afib with RVR in the ED. He 
converted to sinus after bolus dose of dilt. Pt admitted to MICU 
with HR in the ___.  CADS2 score of 0. Pt started on low dose 
metoprolol while in MICU and remained in sinus rhythm.

# Leg pain- Pt with R leg pain on admission, etiology unclear. 
Pt had negative ___. Plain films were ordered but pt declined.  


# Pericardial effusion- Pt noted that have pericardial effusion, 
possibly related to malignancy. Small in size without evidence 
of hemodynamic compromise. Formal echo showed small/trivial 
pericardial effusion.

# Leukocytosis- Pt presented with ___ ct of 14 although was 
without current infectious symptoms.  CXR without evidence of 
PNA.  UA negative.  No history of GI symptoms. No recent fevers 
or chills. Leukocytosis possibly related to PE. No antibiotics 
were started and pt's wbc was trended.

CHRONIC MEDICAL ISSUES: 
=========================
# Seizure disorder- Pt was initially continued on home meds.

# COPD- Patient has notable wheezing on exam. He was continued 
home spiriva with prn nebs 

# HTN- Pt not on medications at home. Pt normotensive in MICU.

# Hepatitis C- Per report HCV:  VL in ___ 2.6 x10^6. Not 
currently on treatment.   

# Tobacco abuse- patient with > 50 pack year history. Pt was 
offered nicotine patch.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Carbamazepine 500 mg PO BID 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheeze 
6. LaMOTrigine 300 mg PO QAM 
7. LaMOTrigine 600 mg PO QPM 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Hypoxemic Respiratory Failure
Mediastinal Mass
Pulmonary embolism
Atrial Fibrillation
COPD

 
Discharge Condition:
Unfortunately, Pt expired during this admission.
 
Discharge Instructions:
NA
 
Followup Instructions:
___